Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Tylenol overdose
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female with no significant PMH presenting with 
intentional acetaminophen overdose in the setting of altercation 
with husband. 

Patient was in an argument with her husband on ___  where she 
was pushed, hitting her head. She was bit on the right arm and 
left shoulder by her husband. She subsequently took ~ 20 tablets 
of 500 mg Tylenol around 2pm on ___. She went to sleep after 
and woke up a few hours later with vomiting. She was brought to 
the hospital by her husband after learning about her Tylenol 
intake. She was found to have acetaminophen level of 58 on 
admission with abdominal pain and nausea. She was evaluated by 
psychiatry and toxicology in the ED and started on NAC treatment 
as below. Given acute rise in LFT despite treatment, NAC was 
continued beyond initial 21 hour protocol.  
 
In the ED, initial vitals were: 
T 96.7 HR 77 BP 113/53 RR 19 Sat 99% 

- Exam notable for:
Mild RUQ TTP, bite marks over right arm and shoulder with 
ecchymosis
  
- Labs notable for:
Serum acetaminophen 51 
ALT 45---> 1478
AST 54---> 1394
INR 1.2--> 1.5-->1.1 
Albumin 3.3 

Urine Hcg- neg
UA: Trace leuk, neg nit, 30 prot, 300 gluc, 150 ket, RBC >150 
WBC 60   
Urine tox: negative 

EKG: NSR, R75, normal axis, no ST elevation/depression, non 
specific T wave flattening V2
 
- Patient was given:  
___ 01:59 IV DRIP Acetylcysteine (IV)  
___ 02:57 IV Ondansetron 4 mg 
___ 08:50 PO Ondansetron ODT 4 mg 
___ 13:02 PO Potassium Chloride 40 mEq 
___ 17:35 PO/NG Potassium Chloride (Powder) 60 mEq 
___ 23:45 SC Insulin  
___ 01:00 IV DRIP Acetylcysteine (IV) Stopped (17h ___  
___ 01:20 IVF  LR 1000 mL   
___ 01:22 IV DRIP Acetylcysteine (IV) (6500 mg ordered) 
___ 12:47 IV Ondansetron 4 mg ___  

Upon arrival to the floor, patient reports ongoing abdominal 
pain and nausea. Has been intolerant of PO intake since in the 
ED. Denies chest pain, shortness of breath.

ROS: Positive per HPI. Remaining 10 point ROS reviewed and 
negative  
 
Past Medical History:
Vaginal delivery x2
Post-partum depression
 
Social History:
___
Family History:
No history of Diabtes, HTN, CVD, or cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 1618)
    Temp: 98.4 (Tm 98.4), BP: 102/71, HR: 78, RR: 18, O2 sat:
97%, O2 delivery: ra, Wt: 118.7 lb/53.84 kg  
GENERAL: WDWN female, blunt affect, NAD
HEENT: PERRLA, EOMI, MMM, clear oropharynx
CARDIAC: RRR, no r/m/g
LUNGS: CTAB, no respiratory distress
ABDOMEN: +BS, soft, mild generalized TTP with more focal pain in 
the RUQ, no hepatosplenomegaly, no rebound or guarding
EXTREMITIES: no ___ edema, 2+ DP
NEUROLOGIC: CN II-XII intact, moving extremities equally 
SKIN: right shoulder with ecchymosis, no skin lesion, right arm 
with superficial scabbing lesion and surrounding ecchymosis, no 
discharge, warmth or erythema 
Psych: blunt affect, intermittent eye contact, admits to ___ and 
notes that she would try a more effective method if  trying 
again

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 2329) 
Temp: 98.6 (Tm 98.6), BP: 115/75 (97-115/58-75), HR: 76 (64-79), 
RR: 18 (___), O2 sat: 95% (95-98), O2 delivery: RA 
GENERAL: lying in bed in NAD
CARDIAC: RRR, nl S1/S2, no mrg
LUNGS: CTAB, no respiratory distress
ABDOMEN: soft, mildly tender over LLQ at site of former HSC 
injection, ND, +BS. no rebound or guarding
SKIN: R shoulder with discoloration c/w old hematoma, R forearm 
with superficial scabbing lesion and old bruising, no erythema 
edema discharge noted
PSYCH: intermittently tearful, denying active/passive SI, 
denying desire to attempt again
EXTREMITIES: no ___ edema, 2+ DP
 
Pertinent Results:
ADMISSION LABS
===============
___ 12:45AM BLOOD WBC-8.9 RBC-4.64 Hgb-13.7 Hct-41.7 MCV-90 
MCH-29.5 MCHC-32.9 RDW-13.3 RDWSD-44.0 Plt ___
___ 12:45AM BLOOD ___ PTT-30.4 ___
___ 12:45AM BLOOD Glucose-150* UreaN-11 Creat-0.5 Na-140 
K-4.2 Cl-103 HCO3-22 AnGap-15
___ 12:45AM BLOOD ALT-45* AST-54* AlkPhos-81 TotBili-0.7
___ 12:45AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-51* 
Tricycl-NEG
___ 12:53AM BLOOD Lactate-1.2

PERTINENT LABS
===============
___ 12:45AM BLOOD ALT-45* AST-54* AlkPhos-81 TotBili-0.7
___ 08:10AM BLOOD ALT-76* AST-69* AlkPhos-65 TotBili-0.9
___ 11:42AM BLOOD ALT-74* AST-59* AlkPhos-58 TotBili-0.8
___ 09:41PM BLOOD ALT-92* AST-65* AlkPhos-57 TotBili-0.4
___ 09:45AM BLOOD ALT-1478* AST-1394* AlkPhos-68 
TotBili-0.9
___ 05:10PM BLOOD ALT-2538* AST-2057* AlkPhos-74 
TotBili-0.8
___ 03:20AM BLOOD ALT-2247* AST-1114* AlkPhos-69 
TotBili-0.8
___ 07:00PM BLOOD ALT-1555* AST-391* AlkPhos-69 TotBili-0.6
___ 06:00AM BLOOD ALT-1213* AST-177* AlkPhos-67 TotBili-0.4
___ 10:35AM BLOOD ALT-1148* AST-154* AlkPhos-63 TotBili-0.5
___ 05:39AM BLOOD ALT-886* AST-71* AlkPhos-73 TotBili-0.4

___ 09:41PM BLOOD ___ PTT-34.6 ___

MICRO
=====
___ UCx: NG final

DISCHARGE LABS
===============
___ 05:47AM BLOOD WBC-7.5 RBC-4.36 Hgb-13.1 Hct-39.7 MCV-91 
MCH-30.0 MCHC-33.0 RDW-13.5 RDWSD-44.7 Plt ___
___ 05:47AM BLOOD ___ PTT-45.2* ___
___ 05:47AM BLOOD Glucose-86 UreaN-16 Creat-0.5 Na-141 
K-4.3 Cl-100 HCO3-27 AnGap-14
___ 05:47AM BLOOD ALT-578* AST-47* AlkPhos-72 TotBili-0.4
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of post-partum 
depression, who presented with intentional acetaminophen 
overdose in the setting of an altercation with her husband. Due 
to acute liver injury with transaminitis as a result of the 
acetaminophen overdose, Ms. ___ was started on N-acetylcysteine 
100mg/kg per protocol. After a 21 hour cycle, in addition to 
multiple 16 hour cycles, her LFTs downtrended to <1000, her INR 
normalized, and her abdominal pain and nausea resolved. 
Therefore, she was medically cleared for psychiatric inpatient 
hospitalization with placement at ___.

ACUTE ISSUES
============
#Acetaminophen overdose
#Acute Liver Injury
#Intimate Partner ___
As above, Ms. ___ presented with intentional overdose of 
acetaminophen (roughly 10g ingested) in the setting of an 
altercation with her husband. Her care was managed with 
assistance from Medical Toxicology. Initially, she received a 21 
hour protocol of NAC, then continued with multiple 16 hour 
protocols as her transaminases were persistently elevated over 
1000. Her AST/ALT peaked at 2538/___. On ___, they downtrended 
to <1000, her INR normalized, her abdominal pain and nausea 
resolved, therefore NAC was stopped per protocol.

#Suicide attempt 
#Depression
Ms. ___ notes that she initially had depressive symptoms after
recent child birth 6 months ago. S/p suicide attempt per above. 
She was observed with a 1:1 sitter throughout her hospital stay. 
Psychiatry evaluated her and felt that due to the severity of 
her suicide attempt, inpatient psychiatric hospitalization was 
required once she was medically cleared.

CHRONIC/RESOLVED ISSUES
=======================
#Hematuria - Ms. ___ was found to have hematuria on her 
admission urinalysis, but was also menstruating at the time. Can 
consider repeating urinalysis once she has finished menses.

#Fever, Resolved
Overnight on ___, Ms. ___ was febrile to 100.8. She has 
bite wounds on her R upper extremity from her altercation from 
her husband, however on exam these did not appear infected. She 
did not have other localizing signs/symptoms. Therefore, she was 
monitored without initiation of antibiotics, and her fever 
resolved without intervention. 

# Glucose intolerance, Resolved
Initially, Ms. ___ had glucose intolerance in the ED to the 
400s, which improved with SC insulin. Her A1C was found to be 
normal. It was felt that this glucose intolerance was related to 
NAC being administered in 5% dextrose solution, though it was 
unclear why she had ketones in her urine. Repeat glucoses were 
normal following. Her NAC was then administered in ___.

TRANSITIONAL ISSUES
===================
[] Outpatient psychiatric follow up plan per ___.
[] Will require eventual follow up with PCP to evaluate for 
resolved acute liver injury, timing and dispo per 
___.

Greater than ___ hour spent on care on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
#Acute Liver Injury due to Intentional Acetaminophen Overdose
#Depression complicated by Suicide Attempt

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You took an intentional overdose of Tylenol pills.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We checked your liver function because of the Tylenol 
overdose.
- We started you on a medication called "N-Acetylcysteine" or 
"NAC" to protect your liver from the excess Tylenol.
- We continued this until your liver enzymes were no longer 
elevated beyond 1000.
- Psychiatry specialists evaluated you and recommended you spend 
time inpatient for further psychiatric monitoring and care.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please continue to take all of your medications and follow-up 
with your appointments as listed below.

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___